US07547691B2
(C). Preparation of [4-(6-bromo-benzo[b]thiophen-2-yl)-5-methyl-pyrimidin-2-yl]-[3-(4-methyl-piperazin-1-yl)-propyl]-amine tri-hydrochloride
Using the method of [4-(benzo[b]thiophen-2-yl)-pyrimidin-2-yl]-[3-(4-methylpiperazin-1-yl)-propyl]-amine tri-hydrochloride, the title compound is prepared from 4-(6-bromobenzo[b]thiophen-2-yl)-2-chloro-5-methylpyrimidine and 1-(3-aminopropyl)-4-methylpiperazine and isolated as a solid. ES+(m/z) 460 (79Br) and 462 (81Br) [M+H].

reactant | [4-(benzo[b]thiophen-2-yl)-pyrimidin-2-yl]-[3-(4-methylpiperazin-1-yl)-propyl]-amine tri-hydrochloride | Cl.Cl.Cl.S1C2=C(C=C1C1=NC(=NC=C1)NCCCN1CCN(CC1)C)C=CC=C2
reactant | 4-(6-bromobenzo[b]thiophen-2-yl)-2-chloro-5-methylpyrimidine | BrC=1C=CC2=C(SC(=C2)C2=NC(=NC=C2C)Cl)C1 | C13H8BrClN2S
reactant | 1-(3-aminopropyl)-4-methylpiperazine | NCCCN1CCN(CC1)C | C8H19N3
product | [4-(6-bromo-benzo[b]thiophen-2-yl)-5-methyl-pyrimidin-2-yl]-[3-(4-methyl-piperazin-1-yl)-propyl]-amine tri-hydrochloride | Cl.Cl.Cl.BrC=1C=CC2=C(SC(=C2)C2=NC(=NC=C2C)NCCCN2CCN(CC2)C)C1 | InChI=1S/C21H26BrN5S.3ClH/c1-15-14-24-21(23-6-3-7-27-10-8-26(2)9-11-27)25-20(15)19-12-16-4-5-17(22)13-18(16)28-19;;;/h4-5,12-14H,3,6-11H2,1-2H3,(H,23,24,25);3*1H
